US08802450B2
1-(4′-Phthalimidobutoxy)-3,5-dibromobenzene:
3,5-dibromophenol (970 mg, 3.85 mmol) was recrystallized from hexanes. After removal of solvent, N-(4-bromobutyl)phthalimide (1.38 g, 4.89 mmol), K2CO3 (1.88 g, 13.6 mmol), 18-crown-6 (53 mg, 0.20 mmol), and acetone (20 mL) were added. This was refluxed for 1 hour, and then poured into 100 mL of water. The aqueous layer was extracted with dichloromethane (4×30 mL). The organic layers were combined, washed with water, saturated NaHCO3, and brine, then dried over MgSO4 and filtered. Removal of solvent yielded a white solid, which was purified by column chromatography (4:1 hexanes:CH2Cl2) followed by recrystallization in hexanes to yield colorless needles (650 mg, 87%). 1H NMR (CDCl3): 7.860 (m, 2H); 7.733 (m, 2H); 7.220 (t, J=1.6 Hz, 1H); 6.964 (d, J=2.0 Hz, 2H); 3.962 (t, J=6.0 Hz, 2H); 3.770 (t, J=6.6 Hz, 2H); 1.846 (m, 4H).

reactant | 3,5-dibromophenol | 3.85 mmol, 970 mg | BrC=1C=C(C=C(C1)Br)O | C6H4Br2O
reactant | N-(4-bromobutyl)phthalimide | 4.89 mmol, 1.38 g | BrCCCCN1C(C=2C(C1=O)=CC=CC2)=O | C12H12BrNO2
reactant | K2CO3 | 13.6 mmol, 1.88 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 18-crown-6 | 0.20 mmol, 53 mg | C1COCCOCCOCCOCCOCCO1 | C12H24O6
solvent | water | 100 mL | O | H2O
solvent | acetone | 20 mL | CC(=O)C | C3H6O
product | 1-(4′-Phthalimidobutoxy)-3,5-dibromobenzene | 650 mg, 87% | C1(C=2C(C(N1CCCCOC1=CC(=CC(=C1)Br)Br)=O)=CC=CC2)=O | C18H15Br2NO3
